US06399631B1
4-(4-Chlorophenyl)-4-hydroxypiperidine (229 mg, 1.1 mmol, 1.5 equiv) was added in one portion to a solution of 3-bromo-N-(9-ethyl-9H-carbazol-3-yl)-propionamide (250 mg, 0.72 mmol, 1 equiv) and triethylamine (0.301 mL, 219 mg, 2.2 mmol) in DMF (2 mL). The resultant solution was maintained at room temperature for 21 hours and then diluted with ethyl acetate (25 mL). The mixture was washed with water (25 mL) and saturated aqueous sodium chloride (2×25 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by rotary chromatography (5% MeOH/CH2Cl2) to afford 3-[4-(4-chloro-phenyl)-4-hydroxy-piperidin-1-yl]-N-(9-ethyl-9H-carbazol-3-yl)-propionamide (278 mg, 81%) as a white solid.

reactant | 4-(4-Chlorophenyl)-4-hydroxypiperidine | 1.1 mmol, 229 mg, 1.5 equiv | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | 3-bromo-N-(9-ethyl-9H-carbazol-3-yl)-propionamide | 0.72 mmol, 250 mg, 1 equiv | BrCCC(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C17H17BrN2O
reactant | triethylamine | 2.2 mmol, 0.301 mL, 219 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4-chloro-phenyl)-4-hydroxy-piperidin-1-yl]-N-(9-ethyl-9H-carbazol-3-yl)-propionamide | 278 mg, 81% | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)O | C28H30ClN3O2
